US07666834B2
Preparation of 5-Methyl-2-(2-nitro-4-trifluoromethyl-phenyl)-thiazole (49)
A solution of n-BuLi (2.5 mmol) in heptane (c=2.5 M) under nitrogen atmosphere was cooled to −78° C. To the solution was added drop-wise 5-methyl-thiazole (750 mg, 7.5 mmol) dissolved in anhydrous THF (10 ml). The reaction was stirred for 20 min at −78° C. followed by the addition of 1-fluoro-2-nitro-4-trifluoromethyl-benzene (1.56 g, 7.5 mmol) dissolved in anhydrous THF (10 ml). The reaction was stirred for 10 min at −78° C. and then allowed to reach ambient temperature. The reaction was quenched with aqueous sodium bicarbonate and the phases separated. The ether phase was washed with brine, dried with MgSO4 and filtered. The solvent was removed in vacuo and the residue purified by flash chromatography (Silica, Hexane/ethyl acetate) to afford the title compound (620 mg, 29%). LC/MS (Method I): tR=1.44 min, >90%, m/z (ESI+)=289 (MH+).

reactant | n-BuLi | 2.5 mmol | [Li]CCCC
reactant | 5-methyl-thiazole | 7.5 mmol, 750 mg | CC1=CN=CS1 | C4H5NS
reactant | 1-fluoro-2-nitro-4-trifluoromethyl-benzene | 7.5 mmol, 1.56 g | FC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
solvent | heptane | 2.5 M | CCCCCCC | C7H16
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 5-Methyl-2-(2-nitro-4-trifluoromethyl-phenyl)-thiazole | 620 mg, 29% | CC1=CN=C(S1)C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C11H7F3N2O2S
